US06469021B1
Preparation of 2-(4-Morpholinyl)ethyl 9H-β-carboline-3-carboxylate
A suspension of β-carboline-3-carboxylic acid, methyl ester (5.3 g, 23.4 mmol), 4-(2-hydroxyethyl) morpholine (4.62 g, 35 mmol), 4-dimethylaminopyridine (1.2 g, 9.8 mmol), 4 Å molecular sieves (5 g) and xylene (250 mL) was heated at reflux for 48 hours. The reaction mixture was cooled to room temperature, concentrated under vacuum, and the resulting slurry was partitioned with CH2Cl2 (250 mL). The mixture was filtered under vacuum and the residue was washed with CH2Cl2 (2×25 mL). Combined organic layers were washed several times with water, dried over Na2SO4, and concentrated. Purification of crude product by column chromatography on silica with 8% 2M NH3—CH3OH in CH2Cl2 as eluent furnished the desired product (4.8 g, 64%) as a pale yellow solid. 1H NMR (CDCl3) δ9.09 (s, 1H), 8.88 (s, 1H), 8.21 (d,J=7.9 Hz, 1H), 7.63 (d,J=8.1 Hz, 1H), 7.63 (d,J=8.1 Hz, 1H), 7.62 (t,J=7.38 (t, J=7.4 Hz, 2H), 4.63 (t, J=6.1 Hz, 2H), 3.73 (t, J=4.6 Hz, 4H), 6.1 Hz, 2H), 2.59 (t, J=4.6 Hz, 4H); MS (APCI; (M+H)+) m/z 326.

reactant | β-carboline-3-carboxylic acid, methyl ester | 23.4 mmol, 5.3 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)OC | C13H10N2O2
reactant | 4-(2-hydroxyethyl) morpholine | 35 mmol, 4.62 g | OCCN1CCOCC1 | C6H13NO2
catalyst | 4-dimethylaminopyridine | 9.8 mmol, 1.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | xylene | 250 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-Morpholinyl)ethyl 9H-β-carboline-3-carboxylate | 4.8 g, 64% | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)OCCN1CCOCC1 | C18H19N3O3
